### PR TITLE
[Merged by Bors] - feat(SetTheory/Cardinal/Basic): `Cardinal.liftInitialSeg`

### PR DESCRIPTION
**Pull request by vihdzp**
We introduce an `InitialSeg` version of `Cardinal.lift` and use it to golf down the `lift` API.

---

- [x] depends on: #16994
- [x] depends on: #16995
- [x] depends on: #17481

Reworked from #16347.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/InitialSeg.lean [hunk 1]
```diff
@@ -192,6 +203,48 @@ protected theorem acc (f : r ≼i s) (a : α) : Acc r a ↔ Acc s (f a) :=
     obtain ⟨a', rfl⟩ := f.init hb
     exact ha _ (f.map_rel_iff.mp hb), f.toRelEmbedding.acc a⟩
 
+section PartialOrder
+
+variable [PartialOrder β] {a a' : α} {b : β}
+
+theorem init_le [Preorder α] (f : (· < ·) ≼i (· < ·)) (h : b ≤ f a) : ∃ a', f a' = b := by
```
Comment (vihdzp) [inline Mathlib/Order/InitialSeg.lean:210]: I considered rewriting this as `IsLowerSet (Set.range f)`, but having to explicitly call [`Set.mem_range_self`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Operations.html#Set.mem_range_self) made it a less convenient lemma at the cost of an import.

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 2]
```diff
@@ -301,34 +294,74 @@ we provide this statement separately so you don't have to solve the specializati
...
   lift_mk_eq.{u, v, 0}
 
-@[simp]
-theorem lift_le {a b : Cardinal.{v}} : lift.{u, v} a ≤ lift.{u, v} b ↔ a ≤ b :=
-  inductionOn₂ a b fun α β => by
-    rw [← lift_umax]
-    exact lift_mk_le.{u}
+/-- `Cardinal.lift` as an `InitialSeg`. -/
+@[simps!]
+def lift.initialSeg : @InitialSeg Cardinal.{u} Cardinal.{max u v} (· < ·) (· < ·) := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Basic.lean:299]: The name here matches `Ordinal.lift.initialSeg`, but I could name this `liftInitialSeg` instead and change the former's name in a separate PR.

File: Mathlib/Order/InitialSeg.lean [hunk 3]
```diff
@@ -71,6 +71,17 @@ instance : FunLike (r ≼i s) α β where
...
 
+/-- An initial segment embedding between the less-than relations of two partial orders is an order
+embedding. -/
+def toOrderEmbedding [PartialOrder α] [PartialOrder β]
+    (f : @InitialSeg α β (· < ·) (· < ·)) : α ↪o β :=
+  f.orderEmbeddingOfLTEmbedding
+
+@[simp]
+theorem toOrderEmbedding_apply [PartialOrder α] [PartialOrder β]
+    (f : @InitialSeg α β (· < ·) (· < ·)) (x : α) : f.toOrderEmbedding x = f x :=
```
Comment (YaelDillies) [inline Mathlib/Order/InitialSeg.lean:82]: You're missing `coe_toOrderedEmbedding`

File: Mathlib/SetTheory/Cardinal/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/SetTheory/Cardinal/Basic.lean:299]: I agree that `liftInitialSeg` is a better name. Can you change?

File: Mathlib/Order/InitialSeg.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:210]: What I'm trying to say is, instead of having the assumption `b ≤ f a`, you'd have something like `∃ x ∈ Set.range f, b ≤ x`, which is certainly less nice.

Comment (YaelDillies) [reply Mathlib/Order/InitialSeg.lean:210]: Sure. But then you should rename the lemma to something more discoverable

Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:210]: Well, this is matching `init` and `init_iff`. I agree with having a more discoverable name, but I'd rather rename those first.

How about `exists_of_rel` and `exists_iff_rel`? Then this can be `exists_of_le`.

Comment (YaelDillies) [reply Mathlib/Order/InitialSeg.lean:210]: `exists_eq_of_rel`, maybe?

Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:210]: I perform this rename in #16994, I'll make this a dependent PR.

File: Mathlib/SetTheory/Cardinal/Basic.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Basic.lean:299]: I'd rather deprecate `Ordinal.lift.initialSeg` first, I do that in #16995.

File: Mathlib/Order/InitialSeg.lean [hunk 4]
```diff
@@ -27,6 +27,11 @@ These notations belong to the `InitialSeg` locale.
 
 * `r ≼i s`: the type of initial segment embeddings of `r` into `s`.
 * `r ≺i s`: the type of principal segment embeddings of `r` into `s`.
+* `α ≤i β` is an abbreviation for `(· < ·) ≼i (· < ·)`.
+* `α <i β` is an abbreviation for `(· < ·) ≺i (· < ·)`.
+
+Due to `InitialSeg.ltOrEq`, we can think of principal segment embeddings as a "strict" version of
+initial segment embeddings.
```
Comment (YaelDillies) [inline Mathlib/Order/InitialSeg.lean:34]: This doesn't convince me hugely. `r a b -> s a b or a = b` doesn't really mean that `r` is `<=` and `s` is `<`. For example, `s` could well be reflexive.

More simply, don't initial and principal segment embeddings correspond to `<=` and `<` on ordinals?

Comment (vihdzp) [reply Mathlib/Order/InitialSeg.lean:34]: Yeah, that works too.

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 5]
```diff
@@ -327,32 +322,48 @@ theorem lift_mk_shrink'' (α : Type max u v) [Small.{v} α] :
...
 theorem lift_injective : Injective lift.{u, v} :=
-  liftOrderEmbedding.injective
+  liftInitialSeg.injective
 
 @[simp]
 theorem lift_inj {a b : Cardinal.{u}} : lift.{v, u} a = lift.{v, u} b ↔ a = b :=
   lift_injective.eq_iff
 
+@[simp]
+theorem lift_le {a b : Cardinal.{v}} : lift.{u, v} a ≤ lift.{u, v} b ↔ a ≤ b :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Basic.lean:361]:
```suggestion
theorem lift_le {a b : Cardinal.{v}} : lift.{u} a ≤ lift.{u} b ↔ a ≤ b :=
```
seems less redundant

**Review by YaelDillies — COMMENTED** [review]
maintainer merge

**Comment by fpvandoorn** [comment]
bors merge
